US06313119B1
c) (2S)-2-(Quinoline-8-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid
72 mg (0.11 mmol) of (2S)-2-(quinoline-8-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid tert-butyl ester was dissolved in 2 ml of dichloromethane and 2 ml of trifluoroacetic acid was added. The solution was stirred at room temperature for 3 hours. The solvent was removed in vacuo and toluene was added to the residue and then removed in vacuo. The residue was dissolved in acetonitrile/water (1/1) and lyophilized. Yield 54 mg. MS (ES+): m/e=553 (M+H+).

reactant | (2S)-2-(quinoline-8-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid tert-butyl ester | 0.11 mmol, 72 mg | C(C)(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O)NS(=O)(=O)C=1C=CC=C2C=CC=NC12)=O | C30H36N6O6S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2S)-2-(Quinoline-8-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)N[C@H](C(=O)O)CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O | C26H28N6O6S
